US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(1-ethyl-7-methoxyheptyl)aminopyrimidine (Compound No. 54)
In 20 ml of anhydrous tetrahydrofuran was dissolved 0.56 g of dl-5-chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine, and 0.15 g of sodium hydride was added thereto. After stirring at room temperature for 30 minutes, 0.43 g of methyl iodide was added to the mixture, and the mixture was refluxed for 5 hours under stirring. After allowing to stand for cooling, an aqueous ammonium chloride solution was added to the reaction mixture and the reaction mixture was extracted with ethyl acetate The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=10:1) to give 0.19 g of the title compound as pale yellow oily liquid. nD23.0 1.5094.

reactant | dl-5 chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine | 0.56 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCO)CC)CC
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | methyl iodide | 0.43 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dl-5 chloro-6-ethyl-4-(1-ethyl-7-methoxyheptyl)aminopyrimidine | 0.19 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCOC)CC)CC | InChI=1S/C18H34N4O2.C16H28ClN3O/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-4-13(10-8-6-7-9-11-21-3)18-15-12-14(5-2)19-16(17)20-15/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;12-13H,4-11H2,1-3H3,(H,18,19,20)
